US07544672B2
A mixure of but-3-ynyl 4-methylbenzenesulfonate (1.04 g), imidazole (573 mg) and K2CO3 (3.88 g) in 2-butanone (10 mL) was heated to reflux overnight. Work-up (DCM, H2O), drying (Na2SO4) and concentration gave 1-(but-3-ynyl)-1H-imidazole (501 mg).

reactant | but-3-ynyl 4-methylbenzenesulfonate | 1.04 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
reactant | imidazole | 573 mg | N1C=NC=C1 | C3H4N2
reactant | K2CO3 | 3.88 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
solvent | H2O | O | H2O
product | 1-(but-3-ynyl)-1H-imidazole | 501 mg | C(CC#C)N1C=NC=C1 | C7H8N2
